US07655666B2
1-Isopropyl-5-tributylstannanyl-1H-pyrazole
To a cold (−78° C.) solution of LDA (prepared from n-BuLi (7.99 mL, 1.6 M, 1.1 eq) and diisopropylamine (1.82 mL, 1.1 eq)) in THF, a solution of 1-isopropyl-1H-pyrazole (1.28 g, 11.6 mmol) in THF was added dropwise while keeping the temperature below −70° C. At the end of the addition, the mixture was stirred at −78° C. for 30 min. Tributyltin chloride (3.44 mL, 1.1 eq) was then added dropwise while keeping the temperature below −70° C. At the end of the addition, the mixture was stirred for 1 h at −78° C. and for 2 h at r.t. The solvent was removed in vacuo and the crude oil was dissolved into AcOEt. The organic phase was washed with water and dried over Na2SO4. The solution was concentrated in vacuo to afford a yellow oil (3.82 g, 82%).

reactant | LDA | 1.6 M, 7.99 mL, 1.1 eq | [Li+].CC(C)[N-]C(C)C
reactant | 1-isopropyl-1H-pyrazole | 11.6 mmol, 1.28 g | C(C)(C)N1N=CC=C1 | C6H10N2
reactant | Tributyltin chloride | 3.44 mL, 1.1 eq | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | C1CCOC1 | C4H8O
product | 1-Isopropyl-5-tributylstannanyl-1H-pyrazole | 3.82 g, 82% | C(C)(C)N1N=CC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C6H9N2.3C4H9.Sn/c1-6(2)8-5-3-4-7-8;3*1-3-4-2;/h3-4,6H,1-2H3;3*1,3-4H2,2H3;
